US06894047B2
4-[4-(1-Hydroxy-ethyl)-[1,3,5]triazin-2-yl]-piperazine-1-sulfonic acid dimethylamide
A mixture of 4-[4-(1-benzyloxy-ethyl)-6-chloro-[1,3,5]triazin-2-yl]-piperazine-1-sulfonic acid dimethylamide (0.73 mmol, 320 mg), (Pd—C 910%, 640 mg), HCl (2 M in ether, 4.4 mmol, 2.2 mL), ammonium formate (15 mmol, 915 mg) and isopropanol (10 mL) was heated at 90° C. for 2 h. The reaction was cooled and filtered, and to the filtrate was added chloroform (20 mL) and aq. saturated sodium bicarbonate (20 mL). The chloroform layer was collected, dried, filtered and the filtrate was evaporated to dryness. The resulting residue was purified by silica gel chromatography (eluent, 96:4 chloroform-methanol) to yield the title compound of this example (59%, 136 mg); mp 124-125° C.; NMR 1.5 (d, 3H), 2.8 (s, 6H), 3.3 (m, 4H), 4.0 (s, 4H0, 7.2 (s, 1H, 8.6 (s, 1H).

reactant | 4-[4-(1-benzyloxy-ethyl)-6-chloro-[1,3,5]triazin-2-yl]-piperazine-1-sulfonic acid dimethylamide | 0.73 mmol, 320 mg | CN(S(=O)(=O)N1CCN(CC1)C1=NC(=NC(=N1)C(C)OCC1=CC=CC=C1)Cl)C | C18H25ClN6O3S
reactant | HCl | 4.4 mmol, 2 M, 2.2 mL | Cl | ClH
reactant | ammonium formate | 15 mmol, 915 mg | C(=O)[O-].[NH4+]
solvent | isopropanol | 10 mL | C(C)(C)O | C3H8O
product | 4-[4-(1-Hydroxy-ethyl)-[1,3,5]triazin-2-yl]-piperazine-1-sulfonic acid dimethylamide | CN(S(=O)(=O)N1CCN(CC1)C1=NC=NC(=N1)C(C)O)C | C11H20N6O3S
